US09304394B2
5-(4-methoxy-3-(2-oxo-2-(2-oxo-2-(2-oxo-2-((2-phenylpropan-2-yl)oxy)ethoxy)ethoxy)ethyl)phenyl)-dibenzothiophenium chloride
5-(3-(2-(carboxymethoxy)-2-oxoethyl)-4-methoxyphenyl)dibenzothiophenium chloride (25 g, 59.2 mmol), 2-phenylpropan-2-yl 2-bromoacetate (15.2 g, 59.2 mmol), sodium iodide (17.7 g, 0.118 mmol), and cesium carbonate (38.4 g, 0.118 mmol) are dissolved in DMF (200 mL) and stirred at 25° C. for 4 h. The reaction mixture is quenched with water (500 mL), extracted with DCM (2×200 mL), the combined organic layers washed with water (4×200 mL), concentrated to a viscous oil and precipitated from MTBE (1 L) to afford the title compound as a white solid.

reactant | 5-(3-(2-(carboxymethoxy)-2-oxoethyl)-4-methoxyphenyl)dibenzothiophenium chloride | 59.2 mmol, 25 g | [Cl-].C(=O)(O)COC(CC=1C=C(C=CC1OC)[S+]1C2=C(C3=C1C=CC=C3)C=CC=C2)=O
reactant | 2-phenylpropan-2-yl 2-bromoacetate | 59.2 mmol, 15.2 g | BrCC(=O)OC(C)(C)C1=CC=CC=C1 | C11H13BrO2
reactant | sodium iodide | 0.118 mmol, 17.7 g | [I-].[Na+]
reactant | cesium carbonate | 0.118 mmol, 38.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 5-(4-methoxy-3-(2-oxo-2-(2-oxo-2-(2-oxo-2-((2-phenylpropan-2-yl)oxy)ethoxy)ethoxy)ethyl)phenyl)-dibenzothiophenium chloride | [Cl-].COC1=C(C=C(C=C1)[S+]1C2=C(C3=C1C=CC=C3)C=CC=C2)CC(OCC(OCC(OC(C)(C)C2=CC=CC=C2)=O)=O)=O | InChI=1S/C34H31O7S.ClH/c1-34(2,24-11-5-4-6-12-24)41-33(37)22-40-32(36)21-39-31(35)20-23-19-25(17-18-28(23)38-3)42-29-15-9-7-13-26(29)27-14-8-10-16-30(27)42;/h4-19H,20-22H2,1-3H3;1H/q+1;/p-1
